US07399759B2
3-[2-(Methylsulfonyl)-6-(4-oxo-4H-1,3-benzothiazin-2-yl)-4-pyridyl]propionic acid
tert-Butyl 3-[2-(methylsulfonyl)-6-(4-oxo-4H-1,3-benzothiazin-2-yl)-4-pyridyl]propanoate (0.20 g, 0.45 mmol) was dissolved in trifluoroacetic acid (5 ml), and the mixture was stirred at room temperature for 0.5 hr. Diisopropyl ether was combined with the reaction mixture to give precipitates, which were recrystallized from ethanol to give the titled compound (0.11 g, 63%) as pale yellow crystals.

reactant | tert-Butyl 3-[2-(methylsulfonyl)-6-(4-oxo-4H-1,3-benzothiazin-2-yl)-4-pyridyl]propanoate | 0.45 mmol, 0.20 g | CS(=O)(=O)C1=NC(=CC(=C1)CCC(=O)OC(C)(C)C)C=1SC2=C(C(N1)=O)C=CC=C2 | C21H22N2O5S2
reactant | Diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-[2-(Methylsulfonyl)-6-(4-oxo-4H-1,3-benzothiazin-2-yl)-4-pyridyl]propionic acid | 0.11 g, 63% | CS(=O)(=O)C1=NC(=CC(=C1)CCC(=O)O)C=1SC2=C(C(N1)=O)C=CC=C2 | C17H14N2O5S2
